US07227035B2
Synthesis of N-(2-Benzoyl-4-bromo-phenyl)-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 138 mg of (2-amino-5-bromo-phenyl)-phenyl-methanone and 121 mg of 4-oxazol-5-yl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.25–7.35 (m, 5H), 7.45–7.49 (m, 4H), 7.63–7.71 (m, 4H), 7.95 (s, 1H), 9.67 (s, 1H). MS: m/z 484.3 (M++1).

reactant | (2-amino-5-bromo-phenyl)-phenyl-methanone | 138 mg | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | 121 mg | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
product | N-(2-Benzoyl-4-bromo-phenyl)-4-oxazol-5-yl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Br)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1 | C22H15BrN2O4S
